### PR TITLE
[Merged by Bors] - feat(Bicategory/CatEnriched): 2-cat from Cat-enriched cat

### PR DESCRIPTION
**Pull request by emilyriehl**
A construction of the canonical strict bicategory structure given a `EnrichedCategory Cat C`.

From the ∞-cosmos project.

Co-Authored-By: Mario Carneiro <marioc@chalmers.se>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

---

*This PR continues the work from #25287.*

*Original PR: https://github.com/leanprover-community/mathlib4/pull/25287*

### CODE REVIEW

**Comment by emilyriehl** [comment]
We've added the `EnrichedOrdinaryCategory` instance, as requested. Note we chose to construct the strict bicategory in this case as an extension of the `Category` instance that is part of an `EnrichedOrdinaryCategory`; had we just applied the previous construction to the associated `EnrichedCategory` instance, we would get an equivalent but different underlying 1-category.

In the motivating example, we will apply this to an `EnrichedOrdinaryCategory` of quasi-categories whose `Category` instance is just the category of quasi-categories and maps of simplicial sets. Thus the strict bicategory we obtain through this route will have the underlying 1-category one would expect.

**Comment by joelriou** [comment]
I am a little bit confused because this is not what I was suggesting. In the first chunk of code, you start from the assumption `EnrichedCategory Cat C` and define a strict bicategory structure on the type synonym `CatEnriched C`. As a strict bicategory, it inherits a category structure. My suggestion was only to put a suitable `EnrichedOrdinaryCategory` instance on `CatEnriched C` in order to record that the category structure and the enriched category structure are compatible.

**Comment by emilyriehl** [comment]
Ah, we misunderstood. Well, the new thing will be useful anyway as it's the better strict bicategory of quasi-categories. Anyway I've now added the instance you requested.

**Review by javra — APPROVED** [review]
LGTM

File: Mathlib/CategoryTheory/Bicategory/CatEnriched.lean [hunk 1]
```diff
@@ -0,0 +1,329 @@
...
+@[simp]
+theorem hComp_comp {a b c : CatEnrichedOrdinary C} {f₁ f₂ f₃ : a ⟶ b} {g₁ g₂ g₃ : b ⟶ c}
+    (η : f₁ ⟶ f₂) (η' : f₂ ⟶ f₃) (θ : g₁ ⟶ g₂) (θ' : g₂ ⟶ g₃) :
+    hComp η θ ≫ hComp η' θ' = hComp (η ≫ η') (θ ≫ θ') := by
+  simp [hComp, ← CatEnriched.hComp_comp, Hom.comp_eq]
+
+theorem id_hComp {a b : CatEnrichedOrdinary C} {f f' : a ⟶ b} (η : f ⟶ f') :
+    hComp (𝟙 (𝟙 a)) η = eqToHom (id_comp f) ≫ η ≫ eqToHom (id_comp f').symm := by
+  ext
+  simp [hComp, ← heq_eq_eq]
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Bicategory/CatEnriched.lean]: It looks to me like this is a non-terminal simp, and similarly in `hComp_id`

File: Mathlib/CategoryTheory/Bicategory/CatEnriched.lean [hunk 2]
```diff
@@ -0,0 +1,329 @@
...
+    HEq (hComp η (𝟙 (𝟙 b))) η := by simp [hComp_id]
+
+theorem id_eq_eqToHom {C} [Category C] (X : C) : 𝟙 X = eqToHom rfl := rfl
+
+theorem hComp_assoc {a b c d : CatEnrichedOrdinary C} {f f' : a ⟶ b} {g g' : b ⟶ c} {h h' : c ⟶ d}
+    (η : f ⟶ f') (θ : g ⟶ g') (κ : h ⟶ h') :
+    hComp (hComp η θ) κ =
+      eqToHom (assoc f g h) ≫ hComp η (hComp θ κ) ≫ eqToHom (assoc f' g' h').symm := by
+  ext
+  simp [hComp, ← heq_eq_eq]
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Bicategory/CatEnriched.lean]: This also looks like a non-terminal simp

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Cat.lean [hunk 3]
```diff
@@ -26,6 +26,17 @@ abbrev chosenTerminal : Cat := Cat.of (ULift (ULiftHom (Discrete Unit)))
 def chosenTerminalIsTerminal : IsTerminal chosenTerminal :=
   IsTerminal.ofUniqueHom (fun _ ↦ (Functor.const _).obj ⟨⟨⟨⟩⟩⟩) fun _ _ ↦ rfl
 
+/-- Functors out of the chosen terminal category are equivalent to objects. -/
+def fromChosenTerminalEquiv {C : Type u} [Category.{v} C] : Cat.chosenTerminal ⥤ C ≃ C where
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Cat.lean:31]: Is it useful to make this an iso or equivalence of categories, rather than just an Equiv in type?

**Review by b-mehta — APPROVED** [review]
The overall structure of this looks good to me, I just have a few particular local comments

File: Mathlib/CategoryTheory/Bicategory/CatEnriched.lean (hunk 1 above)
Comment (emilyriehl) [reply Mathlib/CategoryTheory/Bicategory/CatEnriched.lean]: Whoops. Fixed.

File: Mathlib/CategoryTheory/Bicategory/CatEnriched.lean (hunk 2 above)
Comment (emilyriehl) [reply Mathlib/CategoryTheory/Bicategory/CatEnriched.lean]: Fixed.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Cat.lean (hunk 3 above)
Comment (emilyriehl) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Cat.lean:31]: I agree that this would be nice, and started working on it, but it's taking quite a while and requires some new infrastructure that I haven't completed (eg showing that every F : Cat.chosenTerminal ⥤ C is constant). Could we leave this for future work? I expanded the doc string and mentioned this as a todo.

File: Mathlib/CategoryTheory/Bicategory/CatEnriched.lean [hunk 4]
```diff
@@ -0,0 +1,331 @@
...
+
+/-- The hom-types in a `Cat`-enriched ordinary category are equivalent to the types underlying the
+hom-categories. -/
+def homEquiv {a b : CatEnrichedOrdinary C} : (a ⟶ b) ≃ (a.toBase ⟶ b.toBase) :=
+  (eHomEquiv (V := Cat)).trans Cat.fromChosenTerminalEquiv
+
+theorem homEquiv_id {a : CatEnrichedOrdinary C} : homEquiv (𝟙 a) = 𝟙 a.toBase := by
+  unfold homEquiv
+  simp only [Equiv.trans_apply]
+  rw [eHomEquiv_id]; rfl
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Bicategory/CatEnriched.lean]:
```suggestion
  rw [eHomEquiv_id]
  rfl
```

File: Mathlib/CategoryTheory/Bicategory/CatEnriched.lean [hunk 5]
```diff
@@ -0,0 +1,331 @@
...
+
+theorem homEquiv_comp {a b c : CatEnrichedOrdinary C} (f : a ⟶ b) (g : b ⟶ c) :
+    homEquiv (f ≫ g) = homEquiv f ≫ homEquiv g := by
+  unfold homEquiv
+  simp only [Equiv.trans_apply]
+  rw [eHomEquiv_comp]; rfl
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Bicategory/CatEnriched.lean]:
```suggestion
  rw [eHomEquiv_comp]
  rfl
```

File: Mathlib/CategoryTheory/Bicategory/CatEnriched.lean [hunk 6]
```diff
@@ -0,0 +1,331 @@
...
+    𝟙 f = Hom.mk (𝟙 (homEquiv f)) := rfl
+
+@[simp] theorem Hom.base_id {X Y : CatEnrichedOrdinary C} (f : X ⟶ Y) :
+    Hom.base (𝟙 f) = 𝟙 (homEquiv f) := rfl
+
+theorem Hom.comp_eq {X Y : CatEnrichedOrdinary C} {f g h : X ⟶ Y}
+    (α : f ⟶ g) (β : g ⟶ h) : (α ≫ β) = Hom.mk (Hom.base α ≫ Hom.base β) := rfl
+
+@[simp] theorem Hom.base_comp {X Y : CatEnrichedOrdinary C} {f g h : X ⟶ Y}
+    (α : f ⟶ g) (β : g ⟶ h) : Hom.base (α ≫ β) = (Hom.base α ≫ Hom.base β) := rfl
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Bicategory/CatEnriched.lean]:
```suggestion
    (α : f ⟶ g) (β : g ⟶ h) : Hom.base (α ≫ β) = Hom.base α ≫ Hom.base β := rfl
```

File: Mathlib/CategoryTheory/Bicategory/CatEnriched.lean [hunk 7]
```diff
@@ -0,0 +1,331 @@
...
+
+theorem Hom.mk_comp {X Y : CatEnrichedOrdinary C} {f g h : X ⟶ Y}
+    (α : homEquiv f ⟶ homEquiv g) (β : homEquiv g ⟶ homEquiv h) :
+    Hom.mk (α ≫ β) = (Hom.mk α ≫ Hom.mk β) := rfl
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Bicategory/CatEnriched.lean]:
```suggestion
    Hom.mk (α ≫ β) = Hom.mk α ≫ Hom.mk β := rfl
```

File: Mathlib/CategoryTheory/Bicategory/CatEnriched.lean [hunk 8]
```diff
@@ -0,0 +1,331 @@
...
+  rw [homEquiv_id]; simp [CatEnriched.id_hComp_heq]
+
+theorem id_hComp_heq {a b : CatEnrichedOrdinary C} {f f' : a ⟶ b} (η : f ⟶ f') :
+    HEq (hComp (𝟙 (𝟙 a)) η) η := by simp [id_hComp]
+
+theorem hComp_id {a b : CatEnrichedOrdinary C} {f f' : a ⟶ b} (η : f ⟶ f') :
+    hComp η (𝟙 (𝟙 b)) = eqToHom (comp_id f) ≫ η ≫ eqToHom (comp_id f').symm := by
+  ext
+  simp only [hComp, Hom.base_id, base_mk, ← heq_eq_eq, eqToHom_comp_heq_iff, comp_eqToHom_heq_iff]
+  rw [homEquiv_id]; simp [CatEnriched.hComp_id_heq]
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Bicategory/CatEnriched.lean]:
```suggestion
  rw [homEquiv_id]
  simp [CatEnriched.hComp_id_heq]
```

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Cat.lean [hunk 9]
```diff
@@ -26,6 +26,18 @@ abbrev chosenTerminal : Cat := Cat.of (ULift (ULiftHom (Discrete Unit)))
...
 
+/-- The type of functors out of the chosen terminal category is equivalent to the type of objects
+in the target category. TODO: upgrade to an equivalence of categories. -/
+def fromChosenTerminalEquiv {C : Type u} [Category.{v} C] : Cat.chosenTerminal ⥤ C ≃ C where
+  toFun F := F.obj ⟨⟨()⟩⟩
+  invFun := (Functor.const _).obj
+  left_inv _ := by
+    apply Functor.ext
+    · rintro ⟨⟨⟨⟩⟩⟩ ⟨⟨⟨⟩⟩⟩ ⟨⟨⟨⟨⟩⟩⟩⟩
+      simp; exact (Functor.map_id _ _).symm
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Cat.lean]: one more non-terminal simp here!

**Review by b-mehta — COMMENTED** [review]
bors d+

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Cat.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Cat.lean:31]: Yeah, that makes complete sense to me.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Cat.lean (hunk 9 above)
Comment (emilyriehl) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Cat.lean]: Bah! So sloppy of me. Good catch.

**Comment by b-mehta** [comment]
Thanks!!
